US06670373B1
4-Ethoxycarbonyl-5-methyl-3-(2-fluoro-5-iodophenyl)isoxazole
To a solution of 2-fluoro-5-iodobenzoyl chloride oxime (2.24 g, 7.48 mmol) and ethyl-2-butynoate (1.74 ml, 14.96 mmol, 2 eq.) in Et2O (28 ml) under N2 stirring at 0-5° C., was added dropwise a solution of Et3N (1.35 ml, 9.72 mmol, 1.3 eq) in Et2O (3.6 ml) over 1 h. Reaction was allowed to warm to room temperature and stirred overnight. It was then partitioned between Et2O and H2O, washed with brine, dried (MgSO4), filtered, and concentrated. The crude residue was chromatographed on silica gel using (1-10%) ethyl acetate in hexanes to give the title compound (2.06 g, 73%).

reactant | 2-fluoro-5-iodobenzoyl chloride oxime | 7.48 mmol, 2.24 g | FC1=C(C(Cl)=NO)C=C(C=C1)I | C7H4ClFINO
reactant | ethyl-2-butynoate | 14.96 mmol, 1.74 ml, 2 eq. | C(C)OC(C#CC)=O | C6H8O2
reactant | Et3N | 9.72 mmol, 1.35 ml, 1.3 eq | CCN(CC)CC | C6H15N
solvent | Et2O | 28 ml | CCOCC | C4H10O
solvent | Et2O | 3.6 ml | CCOCC | C4H10O
product | 4-Ethoxycarbonyl-5-methyl-3-(2-fluoro-5-iodophenyl)isoxazole | 2.06 g, 73% | C(C)OC(=O)C=1C(=NOC1C)C1=C(C=CC(=C1)I)F | C13H11FINO3
